US06689801B2
2-{[1-(2-Acetylthio-3-methyl-butanoylamino)-cyclopentanecarbonyl]-amino}-3-[6-(3-amino-phenyl)-pyridin-3-yl]-propionic acid ethyl ester.
A suspension of 2-{[1-(2-acetylthio-3-methyl-butanoylamino)-cyclopentanecarbonyl]-amino}-3-[6-(3-nitro-phenyl)-pyridin-3-yl]-propanoic acid ethyl ester (110 mg) and 25 mg of 10% Pd/C in 10 mL of EtOH is stirred under a H2 atmosphere for 18 h. The catalyst is filtered off, and the reaction mixture is concentrated in vacuo. The residue is purified by chromatography on silica gel (50% EtOAc/hexane) to produce yellow product; 1H NMR (250 MHz, CDCl3) δ8.39 (d, 1H), 7.60 (s, 2H), 7.10-7.36 (m, 3H), 6.71 (d, 1H), 6.34 (d, 1H), 4.76 (app q, 1H), 4.15 (q, 2H), 3.62 (dd, 1H), 3.05-3.25 (m, 2H), 2.35, 2.32 (two s, 3H), 1.55-2.40 (m, 9H), 1.19 (t, 3H), 0.92-1.06 (m, 6H).

reactant | 2-{[1-(2-acetylthio-3-methyl-butanoylamino)-cyclopentanecarbonyl]-amino}-3-[6-(3-nitro-phenyl)-pyridin-3-yl]-propanoic acid ethyl ester | 110 mg | C(C)OC(C(CC=1C=NC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-])NC(=O)C1(CCCC1)NC(C(C(C)C)SC(C)=O)=O)=O | C29H36N4O7S
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | 2-{[1-(2-Acetylthio-3-methyl-butanoylamino)-cyclopentanecarbonyl]-amino}-3-[6-(3-amino-phenyl)-pyridin-3-yl]-propionic acid ethyl ester | C(C)OC(C(CC=1C=NC(=CC1)C1=CC(=CC=C1)N)NC(=O)C1(CCCC1)NC(C(C(C)C)SC(C)=O)=O)=O | C29H38N4O5S
